US20010044407A1
A mixture of 19.1 ml (150 mmol) of veratrol and 19.2 ml (225 mmol) of vinylacetic acid in 230 g of 83% polyphosphoric acid was stirred for 15 h at 60° C. and then poured into 500 ml of ice water. After 30 minutes (min) of stirring, the product was extracted three times, each time with 200 ml of ether. The combined organic phases were washed twice, each time with 100 ml of 2N NaOH, once with 100 ml of water and once with 50 ml of saturated sodium chloride solution, dried over sodium sulfate and freed from solvent on a rotary evaporator. After recrystallizing the residue (in AcOEt/pentane), 22.8 g (74%) of 5,6-dimethoxy-3-methylindan-1-one were obtained.

reactant | veratrol | 150 mmol, 19.1 ml | C=1(C(OC)=CC=CC1)OC | C8H10O2
reactant | vinylacetic acid | 225 mmol, 19.2 ml | C(=C)CC(=O)O | C4H6O2
product | 5,6-dimethoxy-3-methylindan-1-one | 22.8 g, 74% | COC=1C=C2C(CC(C2=CC1OC)=O)C | C12H14O3
